US04324793
As in Example 1, 61.4 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride is reacted with 40.5 g of dodecyl-mercaptan. There is obtained 81 g (86% of theory) of (4-nitro-2-trichloromethylphenyl)-dodecyl disulfide.

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | dodecyl-mercaptan | 40.5 g | C(CCCCCCCCCCC)S | C12H26S
product | (4-nitro-2-trichloromethylphenyl)-dodecyl disulfide | 81 g, 86% | [N+](=O)([O-])C1=CC(=C(C=C1)SSCCCCCCCCCCCC)C(Cl)(Cl)Cl | C19H28Cl3NO2S2
